US09212164B2
Preparation of 1-(3,4-Dichlorophenyl)-2,2-difluoropropan-1-one
To a magnetically stirred solution of 4-bromo-1,2-dichlorobenzene (5.64 g, 24.98 mmol) in dry Et2O (109 mL) was added n-BuLi (10.86 mL, 24.98 mmol) via an addition funnel under a nitrogen atmosphere. The reaction mixture was stirred at −78° C. for 30 min, A solution of ethyl 2,2-difluoropropanoate (3.0 g, 21.7 mmol) in Et2O (10 mL) was added dropwise over 15 min and allowed to stir for 1 h. The reaction was then carefully quenched with 1 N HCl (4 mL) and allowed to warm to 23° C. The solution was dilute with Et2O and washed with water. The combined organic layers were dried over Na2SO4, concentrated under reduced pressure and the resulting material was purified via flash column chromatography using 100% hexanes to 5% acetone/95% hexanes as eluent. The relevant fractions were concentrated under reduced pressure to afford the title compound as a colorless oil (3.89 g, 71%): 1H NMR (400 MHz, CDCl3) δ 8.21-8.18 (m, 1H), 7.99-7.93 (m, 1H), 7.59 (dd, J=8.4, 4.2 Hz, 1H), 1.89 (t, J=19.6 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −92.08-−93.21 (m); EISMS m/z 240 ([M−H]+).

reactant | 4-bromo-1,2-dichlorobenzene | 24.98 mmol, 5.64 g | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | n-BuLi | 24.98 mmol, 10.86 mL | [Li]CCCC
reactant | ethyl 2,2-difluoropropanoate | 21.7 mmol, 3.0 g | FC(C(=O)OCC)(C)F | C5H8F2O2
solvent | Et2O | 109 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 1-(3,4-Dichlorophenyl)-2,2-difluoropropan-1-one | 3.89 g, 71% | ClC=1C=C(C=CC1Cl)C(C(C)(F)F)=O | C9H6Cl2F2O
